datasets/RMG-dataset.csv
rxn,Ea
[C:0](#[C:1][H:3])[H:2].[C:4](#[C:5][C:6]#[C:7][C:8]([H:10])[H:11])[H:9]>>[C:0](=[C:1][H:3])([H:2])[C:8]([C:7]#[C:6][C:5]#[C:4][H:9])([H:10])[H:11],48.99464
[C:0](=[C:1]([S:2][H:6])[H:5])([H:3])[H:4].[C:7]([C:8]([C:9]([H:14])([H:15])[H:16])[S:10][H:17])([H:11])([H:12])[H:13]>>[C:0](=[C:1]([S:2])[H:5])([H:3])[H:4].[H:6][C:8]([C:7]([H:11])([H:12])[H:13])([C:9]([H:14])([H:15])[H:16])[S:10][H:17],-14.644
[C:0](#[C:1][C:2](=[C:3]([C:4]([C:5]([C:6]([C:7]([C:8]([H:20])([H:21])[H:22])[C:9](=[C:10]([H:24])[H:25])[H:23])([H:18])[H:19])([H:16])[H:17])([H:14])[H:15])[H:13])[H:12])[H:11]>>[C:0](#[C:1][C:2]([C:3]1([H:13])[C:4]([H:14])([H:15])[C:5]([H:16])([H:17])[C:6]([H:18])([H:19])[C:7]1([C:8]([H:20])([H:21])[H:22])[C:9](=[C:10]([H:24])[H:25])[H:23])[H:12])[H:11],54.0991
[H:5].[N:0]([O:1][H:4])([H:2])[H:3]>>[H:4][H:5].[N:0]([O:1])([H:2])[H:3],21.2129
[C:0](#[C:1][C:2]([H:4])[H:5])[H:3].[C:6]([C:7]([C:8]([H:20])([H:21])[H:22])=[C:9]([C:10]([H:23])([H:24])[H:25])[c:11]1[c:12]([H:26])[c:13]([H:27])[c:14]([H:28])[c:15]([H:29])[c:16]1[H:30])([H:17])([H:18])[H:19]>>[C:0](#[C:1][C:2]([H:4])([H:5])[C:7]([C:6]([H:17])([H:18])[H:19])([C:8]([H:20])([H:21])[H:22])[C:9]([C:10]([H:23])([H:24])[H:25])[c:11]1[c:12]([H:26])[c:13]([H:27])[c:14]([H:28])[c:15]([H:29])[c:16]1[H:30])[H:3],42.8442
[C:0]([C:1](=[C:2]([C:3](=[O:4])[H:10])[H:9])[H:8])([H:5])([H:6])[H:7].[C:11](=[C:12]([H:14])[H:15])[H:13]>>[C:0]([C:1](=[C:2]([C:3]=[O:4])[H:9])[H:8])([H:5])([H:6])[H:7].[H:10][C:11](=[C:12]([H:14])[H:15])[H:13],19.589488
[C:0](=[C:1]([H:3])[H:4])[H:2].[O:5][H:6]>>[C:0](#[C:1][H:4])[H:2].[H:3][O:5][H:6],0.0
[C:0](#[C:1][C:2](=[C:3]([H:6])[H:7])[H:5])[H:4].[C:8]([C:9](=[S:10])[H:13])([H:11])[H:12]>>[C:0](#[C:1][C:2]=[C:3]([H:6])[H:7])[H:4].[H:5][C:8]([C:9](=[S:10])[H:13])([H:11])[H:12],92.8848
[C:0](=[C:1]([C:2]([S:3][H:9])([H:7])[H:8])[H:6])([H:4])[H:5].[C:10](=[C:11]([C:12]([C:13]([H:18])([H:19])[H:20])[C:14]([H:21])([H:22])[H:23])[H:17])([H:15])[H:16]>>[C:0](=[C:1]([C:2]([S:3][H:9])[H:8])[H:6])([H:4])[H:5].[H:7][C:12]([C:11](=[C:10]([H:15])[H:16])[H:17])([C:13]([H:18])([H:19])[H:20])[C:14]([H:21])([H:22])[H:23],33.0536
[C:0](=[C:1]=[C:2]([H:5])[H:6])([H:3])[H:4].[C:7](=[C:8]([C:9]([C:10]([H:16])([H:17])[H:18])[C:11](=[C:12]([H:20])[H:21])[H:19])[H:15])([H:13])[H:14]>>[C:0](=[C:1]=[C:2]([H:5])[H:6])[H:4].[H:3][C:9]([C:8](=[C:7]([H:13])[H:14])[H:15])([C:10]([H:16])([H:17])[H:18])[C:11](=[C:12]([H:20])[H:21])[H:19],83.68
[C:0](#[C:1][C:2]([H:4])([H:5])[H:6])[H:3].[C:7]([C:8](=[S:9])[H:12])([H:10])[H:11]>>[C:0](#[C:1][C:2]([H:5])[H:6])[H:3].[H:4][C:7]([C:8](=[S:9])[H:12])([H:10])[H:11],71.128
[C:0](#[C:1][C:2]([S:3][H:6])[H:5])[H:4].[C:7]([C:8](=[S:9])[H:13])([H:10])([H:11])[H:12]>>[C:0](#[C:1][C:2]([S:3][H:6])([H:5])[H:10])[H:4].[C:7]([C:8](=[S:9])[H:13])([H:11])[H:12],73.22
[C:0](=[C:1]([C:2]([H:10])([H:11])[H:12])[C:3]([C:4]([C:5](=[C:6]([H:17])[H:18])[C:7]([H:19])([H:20])[H:21])([H:15])[H:16])([H:13])[H:14])([H:8])[H:9].[O:22][H:23]>>[C:0](=[C:1]([C:2]([H:10])([H:11])[H:12])[C:3]([C:4]([C:5](=[C:6]([H:17])[H:18])[C:7]([H:19])([H:20])[H:21])([H:15])[H:16])[H:14])([H:8])[H:9].[H:13][O:22][H:23],-0.025104
[C:0]([C:1]([C:2]([C:3]([C:4]([H:14])([H:15])[H:16])([H:12])[H:13])([H:10])[H:11])([H:8])[H:9])([H:5])([H:6])[H:7].[C:17](=[C:18]([H:20])[H:21])[H:19]>>[C:0]([C:1]([C:2]([C:3]([C:4]([H:14])([H:15])[H:16])([H:12])[H:13])[H:11])([H:8])[H:9])([H:5])([H:6])[H:7].[H:10][C:17](=[C:18]([H:20])[H:21])[H:19],70.2912
[C:0](=[C:1]([C:2]([H:11])([H:12])[H:13])[c:3]1[c:4]([H:14])[c:5]([H:15])[c:6]([H:16])[c:7]([H:17])[c:8]1[H:18])([H:9])[H:10].[C:19]([C:20](=[C:21]([H:25])[H:26])[H:24])([H:22])[H:23]>>[C:0]([C:1]([C:2]([H:11])([H:12])[H:13])([c:3]1[c:4]([H:14])[c:5]([H:15])[c:6]([H:16])[c:7]([H:17])[c:8]1[H:18])[C:19]([C:20](=[C:21]([H:25])[H:26])[H:24])([H:22])[H:23])([H:9])[H:10],67.0277
[C:0]([S:1])([H:2])([H:3])[H:4].[C:5]([H:6])([H:7])[H:8]>>[C:0]([S:1][C:5]([H:6])([H:7])[H:8])([H:2])([H:3])[H:4],-5.52288
[C:0](=[C:1][C:2]([H:5])([H:6])[H:7])([H:3])[H:4].[S:8]=[C:9]([C:10]([S:11][H:15])([H:13])[H:14])[H:12]>>[C:0](=[C:1]([C:2]([H:5])([H:6])[H:7])[H:13])([H:3])[H:4].[S:8]=[C:9]([C:10]([S:11][H:15])[H:14])[H:12],-16.736
[C:0](#[C:1][C:2]([C:3]([H:7])([H:8])[H:9])=[C:4]=[C:5]([H:10])[H:11])[H:6].[C:12](=[C:13][C:14]([H:17])([H:18])[H:19])([H:15])[H:16]>>[C:0](#[C:1][C:2]([C:3]([H:7])([H:8])[H:9])([C:4]=[C:5]([H:10])[H:11])[C:13](=[C:12]([H:15])[H:16])[C:14]([H:17])([H:18])[H:19])[H:6],18.5351
[C:0]([C:1]([C:2]([C:3]([C:4]([C:5]([C:6]([C:7]([C:8]([C:9]([H:28])([H:29])[H:30])([H:26])[H:27])([H:24])[H:25])([H:22])[H:23])([H:20])[H:21])([H:18])[H:19])([H:16])[H:17])([H:14])[H:15])([H:12])[H:13])([H:10])[H:11].[C:31]([H:32])([H:33])[H:34]>>[C:0](=[C:1]([C:2]([C:3]([C:4]([C:5]([C:6]([C:7]([C:8]([C:9]([H:28])([H:29])[H:30])([H:26])[H:27])([H:24])[H:25])([H:22])[H:23])([H:20])[H:21])([H:18])[H:19])([H:16])[H:17])([H:14])[H:15])[H:13])([H:10])[H:11].[H:12][C:31]([H:32])([H:33])[H:34],0.0
